US08247430B2
N-(3-Amino-5-chloro-phenyl)-2-dimethylamino-acetamide
To a solution of 5-chloro-benzene-1,3-diamine (3 g, 21 mmol) and dimethylamino-acetic acid (2.2 g, 21 mmol) in CH2Cl2 (300 mL) was added EDC (5 g, 25 mmol), HOBt (2.9 g, 21 mmol), and DIEA (5 mL). The reaction mixture was stirred at RT for overnight. Solvent was removed in vacuum and the residue was purified through flash chromatography on silica gel (0-8% MeOH in EtOAc) to give the desired compound.

reactant | 5-chloro-benzene-1,3-diamine | 21 mmol, 3 g | ClC=1C=C(C=C(C1)N)N | C6H7ClN2
reactant | dimethylamino-acetic acid | 21 mmol, 2.2 g | CN(C)CC(=O)O | C4H9NO2
reactant | EDC | 25 mmol, 5 g
reactant | HOBt | 21 mmol, 2.9 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 5 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
product | N-(3-Amino-5-chloro-phenyl)-2-dimethylamino-acetamide | NC=1C=C(C=C(C1)Cl)NC(CN(C)C)=O | C10H14ClN3O
